US06949542B2
(RS)-[2-(3-{3-[2-Methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (374 mg, 1.0 mmol) and (RS)-3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester (Example K64) (426 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (500 mg, 69%).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 374 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)N)=O | C14H16F6N2O3
reactant | (RS)-3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 426 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O | C25H31NO5
product | (RS)-[2-(3-{3-[2-Methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O)=O | C35H37F6N3O7
